US06455708B1
A mixture of 3,4-dibromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-3,4-dihydro-2H-1-benzopyran (10.72 g), a 2 N aqueous solution of sodium hydroxide (60 ml) and dioxane (100 ml) was stirred at room temperature for 2 hours. To the reaction mixture, 2 N HCl was added, followed by extraction with ethyl acetate; the resulting orgnaic layers were combined, washed with a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/ethyl acetate=10/1) to give 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran (8.18 g).

reactant | 3,4-dibromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-3,4-dihydro-2H-1-benzopyran | 10.72 g | BrC1C(OC2=C(C1Br)C=C(C=C2)C(F)(F)F)(CF)CF | C12H9Br2F5O
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran | 8.18 g | BrC1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C12H8BrF5O
